US06867310B1
2-Phenyl-2-pentyl-5-(N-methyl-anilinomethylene)-cyclopentanone
An oven dried Schlenk tube equipped with a rubber septum was cooled under an argon purge. The septum was removed and the tube was charged with tris(dibenzylideneacetone)dipalladium (0) (23 mg, 0.025 mmol, 10 mol % Pd), (S)-BINAP (46 mg, 0.075 mmol, 15 mol %) and 2-pentyl-5-(N-methyl-anilinomethylene)-cyclopentanone (136 mg, 0.5 mmol). Toluene (2 mL) was added and the mixture was stirred for 1 min at room temperature. Bromobenzene (157 mg, 1.0 mmol) and sodium 1-butoxide (96 mg, 1.0 mmol) were added to the tube. The tube was capped with the septum, purged with argon, and additional toluene (4 mL) was added through the septum. The mixture was heated to 100° C. with stirring until the starting ketone had been completely consumed as judged by GC analysis. The mixture was cooled to room temperature, quenched with saturated aqueous ammonium chloride (10 mL) and diluted with ether (20 mL). The mixture was poured into a separatory: funnel and the layers were separated. The aqueous layer was extracted with ether (20 mL), the combined organic layers were washed with brine (20 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The crude material was purified by flash chromatography on silica gel to afford 146 mg (84%) of the title compound. The ee was determined to be 93% by chiral HPLC analysis.

reactant | (S)-BINAP | 0.075 mmol, 46 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | 2-pentyl-5-(N-methyl-anilinomethylene)-cyclopentanone | 0.5 mmol, 136 mg | C(CCCC)C1C(C(CC1)=CN(C1=CC=CC=C1)C)=O | C18H25NO
reactant | Bromobenzene | 1.0 mmol, 157 mg | BrC1=CC=CC=C1 | C6H5Br
reactant | sodium 1-butoxide | 1.0 mmol, 96 mg | CCCC[O-].[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.025 mmol, 23 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Phenyl-2-pentyl-5-(N-methyl-anilinomethylene)-cyclopentanone | 146 mg, 84% | C1(=CC=CC=C1)C1(C(C(CC1)=CN(C1=CC=CC=C1)C)=O)CCCCC | C24H29NO
